US07196087B2
A solution of di-tert-butyldicarbonate (29.314 g, 134.27 mmol) in THF (250 ml) was cooled to 0° C. and methyl amine (71 ml, 2M in THF) was added through a funnel. After stirring at 0° C. for 2 hours, the reaction mixture was allowed to warm up to room temperature and the solvent was removed using a rotary evaporator. The resulting residue was purified by flash chromatography to give methylcarbamic acid tert-butyl ester as a pale oil (11.518g, 65%). 1H NMR (CDCl3, 300 MHz) δ: 2.73(d, 3H, J=4.93 Hz), 1.45(s, 9H).

reactant | di-tert-butyldicarbonate | 134.27 mmol, 29.314 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl amine | 2M, 71 ml | CN | CH5N
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | methylcarbamic acid tert-butyl ester | 11.518g, 65% | C(C)(C)(C)OC(NC)=O | C6H13NO2
